US04593102
3-[(3-Chlorophenyl)thio]piperidine hydrobromide
A mixture of 25.2 g (0.175 mole) of m-chlorothiophenol, 48.26 g (0.118 mole) of 1-[(4-methylphenyl)sulfonyl]-3-piperidinol-4-methylphenylsulfonate ester and 56 g of sodium carbonate in 300 ml of dimethylformamide was heated at 100° C. for 22 hr. The mixture was cooled and quenched in excess 1M sodium hydroxide solution. The aqueous mixture was extracted with several portions of methylene chloride and the combined methylene chloride extracts were extracted with several portions of 1N sodium hydroxide solution and dried over magnesium sulfate. The solvent was removed in vacuo to give an oil which was shown by NMR, mass spectrum and TLC to be 3-[(3-chlorophenyl)thio]-1-[(4-methylphenyl)sulfonyl]piperidine. A mixture of the oil and excess phenol in 200 ml of 48% hydrobromic acid was refluxed for 1 hr and quenched in an ice-water mix. The mixture was made basic with sodium hydroxide and extracted with several portions of methylene chloride. The combined methylene chloride extracts were extracted with several portions of 1M sulfuric acid and the methylene chloride layer discarded. The combined acidic extracts were made basic with sodium hydroxide and the basic solution was extracted with several portions of methylene chloride. The aqueous layer was discarded. The combined methylene chloride extract was dried over magnesium sulfate and methylene chloride was removed in vacuo to give an oil, the free base of the title compound. The free base was reacted with hydrogen bromide using the solvent pair isopropanol-isopropyl ether for crystallization and recrystallization to obtain the hydrobromide salt, m.p. 117.5°-120° C.

reactant | m-chlorothiophenol | 0.175 mole, 25.2 g | ClC=1C=C(C=CC1)S | C6H5ClS
reactant | sodium carbonate | 56 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | 3-[(3-chlorophenyl)thio]-1-[(4-methylphenyl)sulfonyl]piperidine | ClC=1C=C(C=CC1)SC1CN(CCC1)S(=O)(=O)C1=CC=C(C=C1)C | C18H20ClNO2S2
reactant | phenol | C1(=CC=CC=C1)O | C6H6O
reactant | hydrobromic acid | 200 ml | Br | BrH
solvent | dimethylformamide | 300 ml | CN(C=O)C | C3H7NO
product | 3-[(3-Chlorophenyl)thio]piperidine hydrobromide | Br.ClC=1C=C(C=CC1)SC1CNCCC1 | InChI=1S/C11H14ClNS.BrH/c12-9-3-1-4-10(7-9)14-11-5-2-6-13-8-11;/h1,3-4,7,11,13H,2,5-6,8H2;1H
